US06972340B2
N-acetyl-4-amino-3-ethylphenylalanine
A mixture of benzyl (2E)-2-(acetylamino)-3-(4-amino-3-ethylphenyl)-2-propenoate (5 g) and 10% Pd—C (100 mg) in methanol (50 mL) was stirred under an atmosphere of hydrogen (4 atmospheres) at ambient temperature overnight to provide the titled compound. MS (ESI(+)) m/e 251 (M+H)+; 1H NMR (300 MHz, DMSO-d6) δ 8.02 (d, 1H), 6.77-6.70 (m, 2H), 6.50 (d, 1H), 4.31-4.21 (m, 1H), 2.84 (dd, 1H), 2.65 (dd, 1H), 2.39 (q, 2H), 1.78 (s, 3H), 1.10 (t, 3H).

reactant | benzyl (2E)-2-(acetylamino)-3-(4-amino-3-ethylphenyl)-2-propenoate | 5 g | C(C)(=O)N\C(\C(=O)OCC1=CC=CC=C1)=C\C1=CC(=C(C=C1)N)CC | C20H22N2O3
solvent | methanol | 50 mL | CO | CH4O
catalyst | Pd—C | 100 mg | [Pd] | Pd
product | N-acetyl-4-amino-3-ethylphenylalanine | C(C)(=O)N[C@@H](CC1=CC(=C(C=C1)N)CC)C(=O)O | C13H18N2O3
